US07700641B2
A. Synthesis of ethyl(5-chloro-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate
Following the procedure as described in PREPARATION 2A, and making non-critical variations to replace isatin with 5-chloro-1H-indole-2,3-dione, and (2-bromoethyl)cyclopropane with ethyl 2-bromoacetate, the title compound was obtained (98%) as solid: 1H NMR (300 MHz, CDCl3) δ 7.60 (d, 1H), 7.54 (dd, 1H), 6.74 (d, 1H), 4.46 (s, 2H), 4.23 (q, 2H), 1.27 (t, 3H); MS (ES+) m/z 268.6 (M+1).

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 5-chloro-1H-indole-2,3-dione | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | (2-bromoethyl)cyclopropane | BrCCC1CC1 | C5H9Br
reactant | ethyl 2-bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | ethyl(5-chloro-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate | C(C)OC(CN1C(C(C2=CC(=CC=C12)Cl)=O)=O)=O | C12H10ClNO4
